US08754100B2
Synthesis of 2-(5-tert-butyl-2-methoxyphenyl)-5-chloropentanenitrile
A solution of n-butyllithium in hexane (2.69 M, 3.0 mL) was added to a solution of N,N-diisopropylamine (1.2 mL) in THF (15 mL) under ice-cooling, and the mixture was stirred at the same temperature for 10 minutes. The solution was cooled to −78° C. and a solution of (5-tert-butyl-2-methoxyphenyl)acetonitrile (1.5 g) in THF (6.5 mL) was added dropwise. The solution was stirred at −30° C. for 25 minutes and then cooled again to −78° C. 1-Chloro-3-iodopropane (1.2 mL) was added dropwise to the solution, and then the reaction solution was gradually heated to room temperature. After ice-cooling the reaction solution, a solution of lithium hexamethyldisilazide in tetrahydrofuran (1.0 M, 4.4 mL) was added to the reaction solution. Then, a lithium diisopropylamide solution prepared from N,N-diisopropylamine (0.6 mL) and a solution of n-butyllithium in hexane (2.69 M, 1.5 mL) was added to the reaction solution. A saturated ammonium chloride aqueous solution was added to the reaction solution. Then, ethyl acetate and water were added and the organic layer was separated. The resulting organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate aqueous solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Merck silica gel 60 (230-400 mesh); elution solvent:heptane:ethyl acetate=1:49) to obtain 864 mg of a 1:7 mixture of (5-tert-butyl-2-methoxyphenyl)acetonitrile and the title compound. The property values of the title compound are as follows.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 1.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | (5-tert-butyl-2-methoxyphenyl)acetonitrile | 1.5 g | C(C)(C)(C)C=1C=CC(=C(C1)CC#N)OC | C13H17NO
reactant | 1-Chloro-3-iodopropane | 1.2 mL | ClCCCI | C3H6ClI
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N,N-diisopropylamine | 0.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 2.69 M, 3.0 mL | CCCCCC | C6H14
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M, 4.4 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.69 M, 1.5 mL | CCCCCC | C6H14
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-tert-butyl-2-methoxyphenyl)-5-chloropentanenitrile | C(C)(C)(C)C=1C=CC(=C(C1)C(C#N)CCCCl)OC | C16H22ClNO
